Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Motor vehicle accident
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is a ___ y/o female who presents to the ED s/p MVA. Pt arrives
from the scene in ___ via ___ EMS. Per EMS, pt driving
through intersection when she was T-boned by another car; pt
struck on front driver's side, significant intrusion to vehicle.
Pt travelling ___ at the time. EMS report +airbags, no LOC,
and windshield in tact. Pt alert and oriented upon EMS arrival 
to
scene, c/o neck and back pain. Pt has a GCS of 15 upon her
arrival to the ED and appropriately communicates with medical
team, pt tearful during evaluation. 
 
Past Medical History:
None
 
Social History:
___
Family History:
Not pertinent 
 
Physical Exam:
Gen: ___, NAD
HEENT: NCAT
Resp: breathing comfortably on room air
Cards: HDS
Ext - WWP
Neuro - motor in tact in bilateral upper and lower extremities. 
No focal neurological deficits. 
 
Pertinent Results:
___ Imaging: 
CXR - no acute cardiopulmonary process
CT C Spine - No acute cervical spine fracture or traumatic 
malalignment.
CT Head - No acute intracranial abnormality
R Glenohumeral Shoulder - Normal right shoulder radiographs.  No 
fracture or dislocation.
R ankle films - No fracture
R knee films - No fracture

MRI Spine - 
CERVICAL:
Cord or cauda equina compression: No
Cord signal abnormality: No
Epidural collection: No
 
THORACIC:
Cord or cauda equina compression: No
Cord signal abnormality: No
Epidural collection: No
 
LUMBAR:
Cord or cauda equina compression: No
Cord signal abnormality: No
Epidural collection: No
Other: Mild degenerative changes.
 
 
Brief Hospital Course:
Ms ___ arrived to ___ ED for trauma evaluation after a 
motor vehicle accident as described in the HPI. A primary and 
secondary surgery were done which showed an intact neuro exam 
though patient was complaining of back pain and right sided 
numbness. She underwent several xrays and CT scans which were 
negative for traumatic injury. Given her sensory complaints, she 
underwent MRI spine which was negative for spinal cord injury. 
Given these findings her C collar was cleared and she was given 
a regular diet which she tolerated well. She was discharged on 
___ in good condition. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q8H:PRN Headache 
Do not exceed 4000 mg Acetaminophen/ 24 hours. 
Each tab of Fioricet has 325 mg Acetaminophen  
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
tablet(s) by mouth every eight (8) hours Disp #*12 Tablet 
Refills:*0 
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
3.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Motor vehicle accident with no traumatic injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for observation after a motor 
vehicle accident. Your imaging including CAT scan and MRI showed 
no signs of traumatic injury. Please see the following 
instructions regarding your care: 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.You may take Tylenol and Advil 
as needed for pain

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. You may resume 
all home activities as tolerated.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___